### PR TITLE
[Merged by Bors] - chore(CategoryTheory/Opposites): pseudofunctoriality of opposites

### PR DESCRIPTION
**Pull request by robin-carlier**
We record lemmas dealing with pseudofunctoriality of the construction `C ↦ Cᵒᵖ`. More precisely, we give isomorphisms of the form `(F ⋙ G).op ≅ F.op ⋙ G.op`, and we study how they interact with constructions such as whiskering, unitors, and associators.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Opposites.lean [hunk 1]
```diff
@@ -467,6 +591,82 @@ protected def unop {F G : Cᵒᵖ ⥤ Dᵒᵖ} (α : F ≅ G) : G.unop ≅ F.uno
...
+  aesop_cat
+
+lemma unop_whiskerLeft {F G : Cᵒᵖ ⥤ Dᵒᵖ} {E : Type*} [Category E] {H : Eᵒᵖ ⥤ Cᵒᵖ} (α : F ≅ G) :
+    NatIso.unop (isoWhiskerLeft H α) =
+    (Functor.unopComp _ _) ≪≫ isoWhiskerLeft H.unop (NatIso.unop α) ≪≫
+      (Functor.unopComp _ _).symm := by
+  aesop_cat
+
+lemma op_leftUnitor :
+    NatIso.op (Functor.leftUnitor F) =
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Opposites.lean:628]: For the lemmas involving the unitors, could you use the syntax `F.leftUnitor` instead of `Functor.leftUnitor F`?

**Comment by joelriou** [comment]
If you intend to deduce the definition of a pseudofunctor from these definitions and lemmas, could you start a branch/PR depending on this, so that we can be sure that we have all the necessary API? (It seems you would also need the 2-cell dual https://ncatlab.org/nlab/show/opposite+2-category)

**Comment by robin-carlier** [comment]
> If you intend to deduce the definition of a pseudofunctor from these definitions and lemmas, could you start a branch/PR depending on this, so that we can be sure that we have all the necessary API? (It seems you would also need the 2-cell dual https://ncatlab.org/nlab/show/opposite+2-category)

I don’t intend to make it pseudofunctor yet. It just that I noticed while working on #24657 that these kind of lemmas were missing. As you said, to do this, I think we should first define the "other duality" (the one that reverses 2-cells) on bicategories, and that will be for an other time.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/CategoryTheory/Opposites.lean [hunk 2]
```diff
@@ -205,6 +205,30 @@ def opInv : (Cᵒᵖ ⥤ Dᵒᵖ) ⥤ (C ⥤ D)ᵒᵖ where
...
+/-- Compatibility of `Functor.op` with respect to functor composition. -/
+@[simps!]
+def opComp (F : C ⥤ D) (G : D ⥤ E) : (F ⋙ G).op ≅ F.op ⋙ G.op := Iso.refl _
+
+/-- Compatibility of `Functor.unop` with respect to functor composition. -/
+@[simps!]
+def unopComp (F : Cᵒᵖ ⥤ Dᵒᵖ) (G : Dᵒᵖ ⥤ Eᵒᵖ) : (F ⋙ G).unop ≅ F.unop ⋙ G.unop := Iso.refl _
+
+variable (C) in
+/-- Functor.op transforms identity functors to identity functors. -/
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Opposites.lean]:
```suggestion
/-- `Functor.op` transforms identity functors to identity functors. -/
```

File: Mathlib/CategoryTheory/Opposites.lean [hunk 3]
```diff
@@ -205,6 +205,30 @@ def opInv : (Cᵒᵖ ⥤ Dᵒᵖ) ⥤ (C ⥤ D)ᵒᵖ where
...
+@[simps!]
+def opId : (𝟭 C).op ≅ 𝟭 (Cᵒᵖ) := Iso.refl _
+
+variable (C) in
+/-- Functor.unop transforms identity functors to identity functors. -/
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Opposites.lean]:
```suggestion
/-- `Functor.unop` transforms identity functors to identity functors. -/
```

**Comment by joelriou** [comment]
Thanks!

bors merge
